* Common Source Amplifier with Active Load
Vdd vdd 0 DC 5
Vin in 0 DC 1.5 AC 1
M1 out in 0 0 NMOS
M2 out bias vdd vdd PMOS
Vbias bias 0 DC 3.5
.model NMOS NMOS LEVEL=1 VTO=1 KP=1m LAMBDA=0.02 KF=0 AF=1
.model PMOS PMOS LEVEL=1 VTO=-1 KP=0.5m LAMBDA=0.02 KF=0 AF=1
.op
.ac dec 100 10 10Meg

.control
set noaskquit
save all
run
.endc

.end

